datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[O:17][O:18][C:19](=[O:20])[H:21]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:6])[H:7].[H:5][O:17][O:18][C:19](=[O:20])[H:21],76.48352
[O:0][C:1]([c:2]1[c:3]([H:10])[c:4]([H:11])[c:5]([H:12])[c:6]([H:13])[c:7]1[H:14])([H:8])[H:9]>>[O:0]=[C:1]([H:8])[H:9].[c:2]1[c:3]([H:10])[c:4]([H:11])[c:5]([H:12])[c:6]([H:13])[c:7]1[H:14],154.1804
[C:0]([C:1](=[C:2]([c:3]1[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]1[H:17])[H:12])[H:11])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([H:11])=[C:2]([H:12])[C:3]2[C:4]1([H:13])[C:5]([H:14])=[C:6]([H:15])[C:7]([H:16])=[C:8]2[H:17],128.42788
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9](=[C:10]([C:11]([C:12]([H:18])([H:19])[H:20])[C:13](=[C:14]([H:22])[H:23])[H:21])[H:17])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[H:5])([H:3])[H:4].[H:6][C:11]([C:10](=[C:9]([H:15])[H:16])[H:17])([C:12]([H:18])([H:19])[H:20])[C:13](=[C:14]([H:22])[H:23])[H:21],79.9144
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[O:17][O:18]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:6])[H:7].[H:5][O:17][O:18],220.9152
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([S:4][H:10])[H:6])[H:5].[C:11]([C:12]([c:13]1[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]([H:26])[c:18]1[H:27])[H:22])([H:19])([H:20])[H:21]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[S:4][H:10])[H:5].[H:6][C:12]([C:11]([H:19])([H:20])[H:21])([c:13]1[c:14]([H:23])[c:15]([H:24])[c:16]([H:25])[c:17]([H:26])[c:18]1[H:27])[H:22],12.1336
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12]([C:13]([C:14]([H:25])([H:26])[H:27])([c:15]1[c:16]([H:28])[c:17]([H:29])[c:18]([H:30])[c:19]([H:31])[c:20]1[H:32])[H:24])([H:21])([H:22])[H:23]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[H:24])[H:5].[C:12]([C:13]([C:14]([H:25])([H:26])[H:27])[c:15]1[c:16]([H:28])[c:17]([H:29])[c:18]([H:30])[c:19]([H:31])[c:20]1[H:32])([H:21])([H:22])[H:23],25.5224
[C:0](=[C:1]([C:2]1=[C:3]([H:9])[C:4]([H:10])=[C:5]([H:11])[C:6]1([H:12])[H:13])[H:8])[H:7]>>[C:0](#[C:1][C:2]1=[C:3]([H:9])[C:4]([H:10])=[C:5]([H:11])[C:6]1([H:12])[H:13])[H:7].[H:8],109.53712
[C:0]([O:1][H:4])([H:2])[H:3].[C:5]([H:6])([H:7])[H:8]>>[C:0](=[O:1])([H:2])[H:3].[H:4][C:5]([H:6])([H:7])[H:8],0.0
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[C:7]([C:8]([C:9]([H:15])([H:16])[H:17])[C:10](=[S:11])[H:18])([H:12])([H:13])[H:14]>>[C:0]([C:1](=[S:2])[H:6])([H:4])[H:5].[H:3][C:8]([C:7]([H:12])([H:13])[H:14])([C:9]([H:15])([H:16])[H:17])[C:10](=[S:11])[H:18],103.345
[C:0]([C:1](=[C:2]([C:3]([H:14])([H:15])[H:16])[c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:13])([H:10])([H:11])[H:12].[c:22]1[c:23]([H:28])[c:24]([H:29])[c:25]([H:30])[c:26]([H:31])[c:27]1[H:32]>>[C:0]([C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[c:22]1[c:23]([H:28])[c:24]([H:29])[c:25]([H:30])[c:26]([H:31])[c:27]1[H:32])[H:13])([H:10])([H:11])[H:12],13.4306
[C:0](#[C:1][C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7]([C:8](=[C:9]([C:10]([H:22])[H:23])[H:21])[H:20])([H:18])[H:19])[H:11]>>[C:0](#[C:1][C:2]1([C:3]([H:12])([H:13])[H:14])[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7]([H:18])([H:19])[C:8]([H:20])=[C:9]([H:21])[C:10]1([H:22])[H:23])[H:11],98.073
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:12])([H:13])[H:14])[C:5]([C:6]([C:7]([H:17])([H:18])[H:19])[C:8]#[C:9][H:20])([H:15])[H:16])[H:11])[H:10]>>[C:0](#[C:1][C:2]1([H:11])[C:3]([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[C:6]1([C:7]([H:17])([H:18])[H:19])[C:8]#[C:9][H:20])[H:10],155.561
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[c:6]1([H:12])[c:7]([H:13])[c:8]([H:14])[c:9]([H:15])[c:10]([H:16])[c:11]1[H:17]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:6]1([H:12])[C:7]([H:13])[C:8]([H:14])=[C:9]([H:15])[C:10]([H:16])=[C:11]1[H:17])[H:3],58.80612
[C:0]1([H:7])[C:1]([H:8])([H:9])[C:2]2([H:10])[C:3]([H:11])=[C:4]([H:12])[C:5]1([H:13])[C:6]2([H:14])[H:15]>>[C:0]1([H:7])=[C:5]([H:13])[C:4]([H:12])=[C:3]([H:11])[C:2]([C:6]([H:14])[H:15])([H:10])[C:1]1([H:8])[H:9],106.692
[C:0](#[C:1][c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]2[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]2[c:11]1[H:19])[H:12].[O:20][H:21]>>[C:0](#[C:1][c:2]1[c:3]([H:13])[c:4][c:5]2[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]2[c:11]1[H:19])[H:12].[H:14][O:20][H:21],19.1233
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])[H:7])[H:6].[C:12]([c:13]1[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]1[H:25])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])([H:7])[C:12]([c:13]1[c:14]([H:21])[c:15]([H:22])[c:16]([H:23])[c:17]([H:24])[c:18]1[H:25])([H:19])[H:20])[H:6],30.7524
